US04273929
A solution of 59.0 g. of trans-4-n-pentylcyclohexane carbinol in 100 ml. of ether is added to a suspension of 125 g. of pyridinium chlorochromate in 900 ml. of methylene chloride and the mixture is stirred at room temperature for 2 hours. The mixture is then diluted with 400 ml. of ether, stirred for a further 15 minutes and the solution is decanted off from the tarry precipitate. The precipitate is back-washed with ether. The combined organic solutions are filtered through a Florisil column. The trans-4-n-pentylcyclohexane carboxaldehyde obtained after evaporation of the filtrate is used directly in the next step.

reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | ether | CCOCC | C4H10O
product | trans-4-n-pentylcyclohexane carboxaldehyde | C(CCCC)[C@@H]1CC[C@H](CC1)C=O | C12H22O
